US05650510
2-N-Acetyl-9-(2-(diethylphosphonomethoxy)ethyl)guanine (1.42 g, 3.68 mmol) was dissolved in 50 mL of 40% aqueous methylamine and the solution was stirred at rt for 45 min. The reaction mixture was concentrated in vacuo and evaporated three times with toluene to give a gummy, white solid. The crude material was stirred in hot ethyl acetate for 1 h, then cooled to rt, and the product collected by filtration to provide 1.19 g of 9-(2-(diethylphosphonomethoxy)ethyl)guanine

reactant | 2-N-Acetyl-9-(2-(diethylphosphonomethoxy)ethyl)guanine | 3.68 mmol, 1.42 g | C(C)(=O)NC=1NC(C=2N=CN(C2N1)CCOCP(=O)(OCC)OCC)=O | C14H22N5O6P
solvent | methylamine | 50 mL | CN | CH5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-(2-(diethylphosphonomethoxy)ethyl)guanine | 1.19 g | C(C)OP(=O)(OCC)COCCN1C=2N=C(NC(C2N=C1)=O)N | C12H20N5O5P
